US08563786B2
0.38 g (2.0 mmol) of titanium tetrachloride and 2 mL of anhydrous dichloromethane were weighed in a test tube equipped with a lid, and 1.7 g (6.0 mmol) of tetra-iso-propoxy titanium was added dropwise thereto while stirring. After stirring at room temperature for 60 minutes, the reaction solution was transferred to a 10-mL volumetric flask, and anhydrous dichloromethane was added thereto for diluting to 10 mL, whereby a uniform, colorless and transparent dichloromethane solution (0.80 mol/L) of chloro-tri-iso-propoxy titanium was obtained.

reactant | titanium tetrachloride | 2.0 mmol, 0.38 g | [Ti](Cl)(Cl)(Cl)Cl
reactant | tetra-iso-propoxy titanium | 6.0 mmol, 1.7 g | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
solvent | dichloromethane | 0.80 mol/L | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | chloro-tri-iso-propoxy titanium | Cl[Ti](OC(C)C)(OC(C)C)OC(C)C | InChI=1S/3C3H7O.ClH.Ti/c3*1-3(2)4;;/h3*3H,1-2H3;1H;/q3*-1;;+4/p-1
